US04009181
A slight excess of 7.5N alcoholic hydrogen chloride was added to a solution of 2.7 g. of 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid dimethylaminoethyl ester in 15 ml. of ethanol. Ether was added until crystallization was induced and the resulting precipitate was filtered and washed with a mixture of ethanol and ether. Upon drying, 2.8 g. of the salt, 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid dimethylaminoethyl ester hydrochloride, m.p. 201°-203° , was obtained.

reactant | hydrogen chloride | 7.5N | Cl | ClH
reactant | 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid dimethylaminoethyl ester | CN(C)CCOC(=O)C1CC=2NC3=CC=C(C=C3C2CC1)Cl | C17H21ClN2O2
reactant | ethanol | C(C)O | C2H6O
solvent | Ether | CCOCC | C4H10O
product | 6-chloro-1,2,3,4-tetrahydrocarbazole-2-carboxylic acid dimethylaminoethyl ester hydrochloride | Cl.CN(C)CCOC(=O)C1CC=2NC3=CC=C(C=C3C2CC1)Cl | InChI=1S/C17H21ClN2O2.ClH/c1-20(2)7-8-22-17(21)11-3-5-13-14-10-12(18)4-6-15(14)19-16(13)9-11;/h4,6,10-11,19H,3,5,7-9H2,1-2H3;1H
